US07807698B2
Description 7: 5-(1,1-Dimethylethyl)-4-methyl-2,4-dihydro-3H-1,2,4-triazole-3-thione (P7)
To a suspension of 4-methyl-3-thiosemicarbazide (0.53 g) in dichloromethane (10 mL) and triethylamine (0.73 mL) was added slowly via syringe pivaloyl chloride (5 mmol). Formation of a precipitate was observed. The mixture was kept overnight. Volatiles were evaporated in vacuo, the residue heated to 80° C. in aqueous NaOH (1 M, 25 mL) for 3 h. Aqueous HCl (2 M) was then added at 25° C. until pH ca. 6. The mixture was concentrated to dryness, water (10 mL) was added and the product collected by filtration, washing with saturated aqueous NaHCO3 (2.5 mL) and then water (10 mL) to give, after drying, the title compound (0.23 g) of ca. 90% purity by NMR as a colourless solid.

reactant | 4-methyl-3-thiosemicarbazide | 0.53 g | CNC(NN)=S | C2H7N3S
reactant | pivaloyl chloride | 5 mmol | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | triethylamine | 0.73 mL | C(C)N(CC)CC | C6H15N
product | 5-(1,1-Dimethylethyl)-4-methyl-2,4-dihydro-3H-1,2,4-triazole-3-thione | CC(C)(C)C=1N(C(NN1)=S)C | C7H13N3S
